US07232821B2
3-{2-[5-Trifluoromethyl-2-(4-fluorobenzyloxy)phenyl]cyclopent-1-enyl}-5-methylbenzoic acid ethyl ester
Prepared by general procedure B(iii) but using 3-(2-bromocyclopent-1-enyl)-5-methylbenzoic acid ethyl ester instead of 3-(2-bromo-cyclopent-1-enyl)-6-methyl benzoic acid ethyl ester and using [5-trifluoromethyl-2-(4-fluorobenzyloxy)phenyl]boronic acid instead of (5-chloro-2-benzyloxyphenyl)boronic acid.

reactant | 3-(2-bromocyclopent-1-enyl)-5-methylbenzoic acid ethyl ester | C(C)OC(C1=CC(=CC(=C1)C)C1=C(CCC1)Br)=O | C15H17BrO2
reactant | [5-trifluoromethyl-2-(4-fluorobenzyloxy)phenyl]boronic acid | FC(C=1C=CC(=C(C1)B(O)O)OCC1=CC=C(C=C1)F)(F)F | C14H11BF4O3
product | 3-{2-[5-Trifluoromethyl-2-(4-fluorobenzyloxy)phenyl]cyclopent-1-enyl}-5-methylbenzoic acid ethyl ester | C(C)OC(C1=CC(=CC(=C1)C)C1=C(CCC1)C1=C(C=CC(=C1)C(F)(F)F)OCC1=CC=C(C=C1)F)=O | C29H26F4O3
